US07816540B2
(trans-4-Isocyano-cyclohexyl)-acetic acid ethyl ester
5 g (22.8 mmol) of trans-(4-Amino-cyclohexyl)-acetic acid ethyl ester hydrochloride were suspended in a mixture of 40 ml (731 mmol) ethylformiate and 10 ml DMF. 5.6 ml (25 mmol) of DIPEA were added and the mixture was heated to 80° C. for 72 h. The solvent mixture was evaporated to dryness and the crude product extracted from ethyl acetate/water. 4.2 g of a yellow solid were obtained which were dissolved in 40 ml DCM. 6.6 ml (47 mmol) triethylamine were added and the mixture was cooled to 0-5° C. 2.3 ml (7.9 mmol) of triphosgene were dissolved in 10 ml DCM and added dropwise. The reaction mixture was warmed to room temperature and the product was isolated directly via silica gel chromatography using ethyl acetate/hexane as an eluant. The intermediate was used without further characterization.

reactant | triethylamine | 47 mmol, 6.6 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 7.9 mmol, 2.3 ml | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (trans-4-Isocyano-cyclohexyl)-acetic acid ethyl ester | C(C)OC(C[C@@H]1CC[C@H](CC1)[N+]#[C-])=O | C11H17NO2
